US09446034B2
To a 25 mL round bottom was added 4-(ethyloxy)-3-oxobutanenitrile (550 mg, 4.33 mmol), ethyl hydrazine oxalate (641 mg, 4.33 mmol), and HCl (2.163 mL, 4.33 mmol) in ethanol (10 mL). The reaction mixture was stirred at the room temperature overnight. The reaction mixture was then evaporated, and partitioned between 20 mL of ethyl acetate and 20 mL of 1 M Na2CO3. The organic layer was washed with brine, filtered and evaporated. 1-Ethyl-3-[(ethyloxy)methyl]-1H-pyrazol-5-amine (420 mg, 2.234 mmol, 51.6% yield) was isolated as yellow oil. The product was used in the next step without further purification. LCMS (M+H)+=170.1 (M+H); 1H NMR (400 MHz, DMSO-d6) ppm 1.08 (t, J=6.95 Hz, 3 H) 1.19 (t, J=7.07 Hz, 3 H) 3.37-3.43 (m, 2 H) 3.81 (q, J=7.24 Hz, 2 H) 4.15 (s, 2 H) 5.09 (s, 2 H) 5.22 (s, 1 H).

reactant | 4-(ethyloxy)-3-oxobutanenitrile | 4.33 mmol, 550 mg | C(C)OCC(CC#N)=O | C6H9NO2
reactant | ethyl hydrazine oxalate | 4.33 mmol, 641 mg | C(C(=O)O)(=O)O.C(C)NN
reactant | HCl | 4.33 mmol, 2.163 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-Ethyl-3-[(ethyloxy)methyl]-1H-pyrazol-5-amine | 2.234 mmol, 420 mg, 51.6% yield | C(C)N1N=C(C=C1N)COCC | C8H15N3O
